US03970704
A mixture of 9.0 g. of 7-ethoxy-3,7-dimethyloctan-1-al and 15 g. of triphenylphosphineacetylmethylene in 100 ml. of dry toluene, under nitrogen, is refluxed for 20 hours. Thereafter, the toluene is evaporated and pentane added to remove triphenylphosphine. After concentration, the product is distilled to yield 10-ethoxy-6,10dimethylundec-3-en-2-one. The thus-prepared ketone is reacted with the carbanion of diethyl carbethoxymethylphosphonate using the procedure of Example 1 or 9 to prepare ethyl-11-ethoxy-3,7,11-trimethyldodeca-2,4-dienoate.

reactant | 7-ethoxy-3,7-dimethyloctan-1-al | C(C)OC(CCCC(CC=O)C)(C)C | C12H24O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 10-ethoxy-6,10dimethylundec-3-en-2-one | C(C)OC(CCCC(CC=CC(C)=O)C)(C)C | C15H28O2
